US07776857B2
A microwave reaction vial was charged with 4-chloroquinoline-7-carbonitrile (97.1 mg, 0.515 mmol), 4-(4-ethyl-6-phenylpyridazin-3-ylamino)phenol (150 mg, 0.515 mmol), cesium carbonate (252 mg, 0.772 mmol) and 2.6 mL of DMSO. The vial was sealed, and the reaction mixture was irradiated in the microwave at 150° C. for 15 min. Upon cooling the mixture was poured into water and the resulting solids were filtered and washed with water. The crude solids were dissolved in 90/10/1 CH2Cl2/MeOH/NH4OH and purified by silica gel chromatography, 5-100% 90/10/1: CH2Cl2 over 25 min which provided 4-(4-(4-ethyl-6-phenylpyridazin-3-ylamino)phenoxy)quinoline-7-carboxamide as a tan solid. MS m/z=462 [M+H]+. Calc'd for C28H23N3O2: 461.52.

reactant | 4-chloroquinoline-7-carbonitrile | 0.515 mmol, 97.1 mg | ClC1=CC=NC2=CC(=CC=C12)C#N | C10H5ClN2
reactant | 4-(4-ethyl-6-phenylpyridazin-3-ylamino)phenol | 0.515 mmol, 150 mg | C(C)C1=C(N=NC(=C1)C1=CC=CC=C1)NC1=CC=C(C=C1)O | C18H17N3O
reactant | cesium carbonate | 0.772 mmol, 252 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 2.6 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-(4-ethyl-6-phenylpyridazin-3-ylamino)phenoxy)quinoline-7-carboxamide | C(C)C1=C(N=NC(=C1)C1=CC=CC=C1)NC1=CC=C(OC2=CC=NC3=CC(=CC=C23)C(=O)N)C=C1 | C28H23N5O2
